US07420001B2
To 2-amino-4-chloro-benzenethiol (1 g) was added ethyl triethoxyacetate (3 eq). The mixture was stirred at 110° C. overnight. The reaction mixture was cooled and triturated with hexane. Filtration gave 392 mg of 5-chloro-benzothiazole-2-carboxylic acid ethyl ester as a white solid.

reactant | 2-amino-4-chloro-benzenethiol | 1 g | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | ethyl triethoxyacetate | 3 eq | C(C)OC(C(=O)OCC)(OCC)OCC | C10H20O5
product | 5-chloro-benzothiazole-2-carboxylic acid ethyl ester | 392 mg | C(C)OC(=O)C=1SC2=C(N1)C=C(C=C2)Cl | C10H8ClNO2S
